US05442060
A mixture of 0.92 g (4.4 mmol) of 2, 6-diisopropylbenzyl chloride, 0.97 g (5.24 mmol) of potassium phthalimide and 8 ml of N, N-dimethylformamide was stirred at 70° C. for 1.5 hours. After cooling, the reaction mixture was mixed with water and extracted with ethyl acetate. The extract was washed with saturated saline, dried over anhydrous magnesium sulfate and the solvent evaporated in vacuo. The residue was mixed with 15 ml of hexane and 2 ml of ethyl acetate, stirred at room temperature, and the precipitated crystals were filtered to give 1.01 g of N-(2, 6-diisopropylbenzyl)-phthalimide.

reactant | 2, 6-diisopropylbenzyl chloride | 4.4 mmol, 0.92 g | C(C)(C)C1=C(CCl)C(=CC=C1)C(C)C | C13H19Cl
reactant | potassium phthalimide | 5.24 mmol, 0.97 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | N, N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-(2, 6-diisopropylbenzyl)-phthalimide | 1.01 g | C(C)(C)C1=C(CN2C(C=3C(C2=O)=CC=CC3)=O)C(=CC=C1)C(C)C | C21H23NO2
